US07919488B2
[5-(4-fluorobenzyl)-3-pyridin-4-yl-1H-pyrazol-1-yl]acetic acid
A 12 liter, three-neck, round bottom flask equipped with mechanical stirrer was charged with Methyl [5-(4-fluorobenzyl)-3-pyridin-4-yl-1H-pyrazol-1-yl]acetate (235 g, 0.72 mol), THF (3.5 L), methanol (1.2 L), and 2 M LiOH (1.2 L). The resulting solution was stirred at room temperature for 1.5 hours. After LC-MS showed the absence of starting material, the majority of the THF was removed by rotary evaporation. The solution was then acidified with 2 M HCl (pH=3) and the white precipitate was filtered and washed with water. After being dried under reduced pressure, 210 g (93%) of the title compound was obtained. 1H NMR (400 MHz, DMSO-D6) δ ppm 8.53 (d, 2 H), 7.68 (d, 2 H), 7.31 (t, 2 H), 7.14 (t, 2 H), 6.57 (s, 1 H), 5.00 (s, 2 H), 4.01 (s, 2 H); m/z (APCI+) for C17H14N3O2F 312.2 (M+H)+.

reactant | Methyl [5-(4-fluorobenzyl)-3-pyridin-4-yl-1H-pyrazol-1-yl]acetate | 0.72 mol, 235 g | FC1=CC=C(CC2=CC(=NN2CC(=O)OC)C2=CC=NC=C2)C=C1 | C18H16FN3O2
reactant | THF | 3.5 L | C1CCOC1 | C4H8O
reactant | LiOH | 2 M, 1.2 L | [Li+].[OH-]
solvent | methanol | 1.2 L | CO | CH4O
product | [5-(4-fluorobenzyl)-3-pyridin-4-yl-1H-pyrazol-1-yl]acetic acid | 210 g, 93% | FC1=CC=C(CC2=CC(=NN2CC(=O)O)C2=CC=NC=C2)C=C1 | C17H14FN3O2
